US07754912B2
Specifically, 1.90 g (7.86 mmol) of 6-acryloyloxy-2-naphthoic acid was dissolved in 10 g of THF, to which 0.99 g (8.65 mmol) of methanesulfonyl chloride was added with ice-water bath cooling, and further 1.91 g (18.87 mmol) of triethylamine (TEA) was added dropwise. After stirring for 1 hour, 10 mg (0.08 mmol) of 4-dimethylaminopyridine (DMAP) was added, to which a solution of 2.00 g (8.25 mmol) of 4-benzyloxy-2-n-propylphenol dissolved in 7 g of THF was added dropwise. After stirring for 1 hour, the reaction mixture was allowed to warm to room temperature, the precipitates were removed by filtration, and the filtrate was washed with water. After removing the solvent by evaporation, the residue was purified by column chromatography (developing solvent: dichloromethane, SiO2) and recrystallized from acetone. Thus the target benzyl ether was obtained as a white solid (2.27 g, 61.9% yield).

reactant | 6-acryloyloxy-2-naphthoic acid | 7.86 mmol, 1.90 g | C(C=C)(=O)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H10O4
reactant | methanesulfonyl chloride | 8.65 mmol, 0.99 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 18.87 mmol, 1.91 g | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxy-2-n-propylphenol | 8.25 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CCC | C16H18O2
solvent | THF | 10 g | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 7 g | C1CCOC1 | C4H8O
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
